Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / Reglan
 
Attending: ___.
 
Chief Complaint:
Diarrhea, right lower quadrant pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of RNYGB (___), vaginal delivery of son 2
months prior, and recent bilateral salpingectomy 3 weeks prior 
at
___ presents with 5 day history of diarrhea (worse than
her baseline loose stools) and a 12 hour history of RLQ pain. 
She has also had nausea with wretching.  Reports a low grade 
temp
and chills.  Denies dysuria or vaginal discharge.  Denies
drainage or pain at recent laparoscopy sites.  Has been seen
post-operatively by gyn, per patient was told all was normal.  
Of
note, the patient reports an episode similar to her current pain
___ years ago and she states she was booked for appendectomy but
her case was suddenly cancelled and she was discharged and her
pain resolved.  She does not know the reason for the change or
her diagnosis at that hospital visit.
 
Past Medical History:
PNC: 
- ___ ___ by LMP c/w ___ trimester U/S
- Labs Rh pos/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg/GBS PND
- Screening - Aneuploidy screening: abnl Panorama - ___ 46XY
- FFS - wnl
- GLT - screened with FBS fasting and 1hr PP x 1wk - wnl
- U/S -  ___: ant placenta, nl AF, 2143g (60%), cephalic
- Issues
 - She is known Gaucher carrier, but couple have elected not to
have FOB tested
 - h/o gastric bypass - getting growth scans q4wk
 - h/o admission and beta on ___ and ___ for PTL with change to
1-2cm/50.

OB Hx:
- G1 SVD - IOL 37wk for persistent DFM, 2970g
- G2 current

GYN Hx - due for repeat pap postpartum. No known h/o fibroids,
STIs.

PMH: 
- h/o recurrent c. diff
- h/o anemia requiring IV iron

Past Surgical Hx:
- gastric bypass (cannot have NSAIDs)
- cholecystectomy
 
Social History:
___
Family History:
Nonpertitent 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 100.2 108 110/69 22 99% RA 
GEN: A&O, NAD, tearful
HEENT: No scleral icterus, mucus membranes moist
CV: mild tachycardia
PULM: non-labored respirations on room air
ABD: Soft, non-distended but obese, diffusely TTP (worst in 
RLQ),
+rebound pain, +guarding to RLQ palpation, all 3 recent
laparoscopy incisions without erythema or drainage and appear
well healed
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM
GEN:AxOx3, tearful 
HEENT: No scleral icterus, mucus membranes are moist, PEERLA, 
EOMI. 
CV: RRR. 
PULM: CTAB. Non-labored breathing. No deformities.
ABD: Soft, nontender, nondistended. No hepatosplenomegaly.
Ext: No ___ edema, no erythema, ___ are warm and well perfused.
 
Pertinent Results:
ADMISSION LABS:
___ 05:40AM BLOOD Glucose-95 UreaN-3* Creat-0.6 Na-142 
K-3.8 Cl-102 HCO3-30 AnGap-10
___ 05:40AM BLOOD WBC-4.9 RBC-3.83* Hgb-9.4* Hct-30.4* 
MCV-79* MCH-24.5* MCHC-30.9* RDW-14.3 RDWSD-41.6 Plt ___

DISCHARGE LABS:
___ 05:55PM BLOOD WBC-7.0 RBC-4.32 Hgb-10.8* Hct-34.7 
MCV-80* MCH-25.0* MCHC-31.1* RDW-14.6 RDWSD-42.5 Plt ___
___ 05:55PM BLOOD Neuts-75.1* Lymphs-16.1* Monos-6.8 
Eos-1.0 Baso-0.7 Im ___ AbsNeut-5.29 AbsLymp-1.13* 
AbsMono-0.48 AbsEos-0.07 AbsBaso-0.05
___ 05:55PM BLOOD Glucose-87 UreaN-4* Creat-0.7 Na-145 
K-4.3 Cl-106 HCO3-23 AnGap-16
___ 09:40AM BLOOD Calcium-9.0 Phos-4.7* Mg-1.9

RADIOOLOGY:

CTA CHEST, ___:
IMPRESSION: 
1. No evidence of pulmonary embolism. 
2. Consolidations of the left lower lobe may be compatible with 
pneumonia. 
3. Small, bilateral pleural effusions with adjacent atelectasis. 

4. Status post Roux-en-Y gastric bypass. No evidence of bowel 
obstruction. 
5. The appendix is not definitively seen, but there are no 
secondary signs of 
acute appendicitis. 

CXR, ___:
IMPRESSION:  
In comparison with the study ___, there is increased 
opacification at the 
left base with blunting the costophrenic angle.  This most 
likely represents 
pleural fluid and atelectatic change.  However, in the 
appropriate clinical 
setting, superimposed pneumonia could be considered. 
No vascular congestion or cardiomegaly. 

CTAP, ___:
IMPRESSION: 
1. Mildly prominent loops of small bowel in the left upper and 
right lower 
quadrant without definite transition point to suggest small 
bowel obstruction. 
No internal hernia, bowel wall thickening, or anastomotic 
complications status 
post Roux-en-Y gastric bypass.  These findings may represent a 
nonspecific 
gastroenteritis. 
2. Normal appendix. 
3. Minimal intrahepatic biliary dilatation is likely related to 
prior 
cholecystectomy. 
4. Trace bilateral pleural effusions with adjacent mild 
compressive 
atelectasis.  No focal consolidation. 

  

 
Brief Hospital Course:
Ms ___ is a ___ yo F who presented to emergency department on 
___ with abdominal pain and diarrhea approximately 2 weeks 
post operative from bilateral salpingectomy. White blood cell 
count, differential showed no left shift and normal and CT 
abdomen/pelvis showed no intraabdominal process. Stool sample 
sent and negative for clostridium difficile. She developed a 
worsening cough with shortness of breath on excretion, 
supplemental oxygen requirement, and wheeze on clinical exam. 
Patient denies history of asthma. Chest X-ray and CTA chest 
concerning for left lower lobe pneumonia and no pulmonary 
embolism identified. Given clinical picture of community 
acquired pneumonia the medicine team was consulted. Medicine 
said that given the absence of leukocytosis and improvement in 
hypoxia with ISS that the diagnosis of pneumonia is not likely. 
The abdominal pain is likely ___ to a viral gastroenteritis 
given the absence of findings on CT scan and gynecological 
evaluation. Her oxycodone was discontinued on ___ and she was 
continued on the oral Tylenol. On the day of discharge she was 
tolerating a regular diet, she was ambulatory and her pain was 
controlled. She was instructed to follow up as an outpatient 
with gynecology with any gynecological issues. The patient was 
encouraged to return to the Emergency Department if her pain 
gets worse or she is not able to tolerate PO. The patient was in 
agreement with this plan. 
 
Medications on Admission:
Prenatal vitamin
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth q8hr:PRN Disp #*40 
Tablet Refills:*0 
2.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL per instructions by mouth q8hr:PRN 
Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8hr:PRN Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis, unspecified

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
for abdominal pain on ___. There was concern for 
appendicitis and you were admitted to the General Surgery 
service with IV antibitioics (zosyn, ceftriaxone, flagyl). A CT 
scan of your abdomen and pelvis at that time did not show any 
abnormalities and the antibiotics were discontinued. Gynecology 
was consulted given your recent procedure and wished for you to 
continue to follow up as an outpatient. You were put on a 
regular diet on ___ which you tolerated well. On ___ you were 
needing some extra oxygen so we ordered a chest xray which 
showed that you need to open your lungs more. We gave you 
breathing treatments which you tolerated well. On ___ your pain 
was better controlled. On the day of discharge you were 
tolerating a regular diet, you were having bowel movements and 
ambulating. You were discharged home in stable condition and 
instructed to follow up as an outpatient with your gynecologist. 

 
Followup Instructions:
___